US07985862B2
(Step 1) A mixture of 2-fluoro-5-(trifluoromethoxy)benzonitrile (6.55 g) and sodium methanethiolate (2.46 g) was stirred in N,N-dimethylformamide (50 ml) at room temperature for 3 hr. The reaction solution was treated with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. A solution of the obtained residue in tetrahydrofuran (20 ml) was added at 0° C. to a suspension of lithium aluminum hydride (1.45 g) in tetrahydrofuran (250 ml). The mixture was stirred at room temperature for 2 hr, and treated with sodium sulfate 10 hydrate. The mixture was further stirred at room temperature for 30 min, and the inorganic substance was filtered off through celite. The filtrate was concentrated under reduced pressure. The residue was dissolved in methanol, and 4N hydrogen chloride-ethyl acetate solution (10 ml) was added. The mixture was crystallized from methanol-ethyl acetate to give 1-[2-(methylsulfanyl)-5-(trifluoromethoxy)phenyl]methanamine hydrochloride (4.3 g).

reactant | 2-fluoro-5-(trifluoromethoxy)benzonitrile | 6.55 g | FC1=C(C#N)C=C(C=C1)OC(F)(F)F | C8H3F4NO
reactant | sodium methanethiolate | 2.46 g | C[S-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[2-(methylsulfanyl)-5-(trifluoromethoxy)phenyl]methanamine hydrochloride | 4.3 g | Cl.CSC1=C(C=C(C=C1)OC(F)(F)F)CN | InChI=1S/C9H10F3NOS.ClH/c1-15-8-3-2-7(4-6(8)5-13)14-9(10,11)12;/h2-4H,5,13H2,1H3;1H
